US04210543
Preparation of O,O-Diphenyl Phosphorohydrazidothioate
O,O-Diphenyl phosphorochloridothioate, (PhO)2P(S)Cl, (38 g, 0.13 mole) was added slowly to hydrazine hydrate, (25 g of 60% solution ≅0.47 mole hydrazine) at 65°-75° C. The mixture was allowed to cool slowly and the solid product was then recovered by filtration, washed with water and dried. Recrystallization from benzene/petroleum ether (1:1) gave 30.5 g product (84% yield) melting at 59°-61° C.

reactant | O,O-Diphenyl phosphorochloridothioate | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(Cl)=S | C12H10ClO2PS
reactant | (PhO)2P(S)Cl | 0.13 mole, 38 g | P(=S)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO2PS
reactant | hydrazine hydrate | O.NN
reactant | hydrazine | 0.47 mole | NN | H4N2
product | O,O-Diphenyl Phosphorohydrazidothioate | 30.5 g, 84% yield | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(NN)=S | C12H13N2O2PS
